US07666879B2
B. 4-(7-Pyridin-3-yl-imidazo[1,2-a]pyridin-3-yl)-phenylamine
To a round bottomed flask add 4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-phenylamine (0.5 g, 2.1 mmol), pyridine-3-boronic acid (0.38 g, 1.5 equiv.), potassium phosphate (0.87 g, 2 equiv.), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (also called S-Phos, 0.105 g, 0.125 equiv.), 1,4-dioxane (10 mL), and water (5 mL). Deoxygenate this mixture thoroughly with N2 then add palladium (II) acetate (23 mg, 0.05 equiv.) and reflux the reaction overnight. Concentrate the reaction to dryness and slurry in DCM. Filter this slurry thru Celite® and wash with DCM. Concentrate the filtrate then purify by silica plug (EtOAc to 5% MeOH: DCM to 10% MeOH: DCM) to give a yellow solid (0.39 g, 66%). MS (ES), m/z 287 (M+1).

reactant | 4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-phenylamine | 2.1 mmol, 0.5 g | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)N | C13H10ClN3
reactant | pyridine-3-boronic acid | 0.38 g, 1.5 equiv. | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium phosphate | 0.87 g, 2 equiv. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | S-Phos | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | palladium (II) acetate | 23 mg, 0.05 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(7-Pyridin-3-yl-imidazo[1,2-a]pyridin-3-yl)-phenylamine | 0.39 g, 66% | N1=CC(=CC=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)N | C18H14N4
